US08975415B2
To a suspension of methyl(triphenyl)phosphonium bromide (8.13 g, 22.3 mmol) in THF (44 mL) was added n-butyllithium (1.65 M in n-hexane, 13.5 mL, 22.3 mmol) in a dry ice-acetone bath under argon atmosphere. The mixture was stirred for 60 minutes in an ice bath. To the mixture was added a mixture of 6-bromo-2,2-dimethyl-4H-spiro[chromene-3,3′-oxetan]-4-one (2.21 g, 7.44 mmol) and THF (11 mL) in an ice bath. The mixture was stirred for 1 hour at ambient temperature. The reaction was quenched by adding water in an ice-water bath. The mixture was partitioned between EtOAc-hexane (1:2) and water. The organic layer was washed with brine, dried over MgSO4, filtered, and the filtrate was evaporated. Purification using silica gel column chromatography (EtOAc-hexane, a linear gradient of EtOAc from 0 to 20%) afforded 6-bromo-2,2-dimethyl-4-methylene-4H-spiro[chromene-3,3′-oxetane] (2.02 g).

reactant | n-butyllithium | 22.3 mmol, 1.65 M, 13.5 mL | C(CCC)[Li]
reactant | 6-bromo-2,2-dimethyl-4H-spiro[chromene-3,3′-oxetan]-4-one | 7.44 mmol, 2.21 g | BrC=1C=C2C(C3(COC3)C(OC2=CC1)(C)C)=O | C13H13BrO3
catalyst | methyl(triphenyl)phosphonium bromide | 22.3 mmol, 8.13 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 44 mL | C1CCOC1 | C4H8O
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | 6-bromo-2,2-dimethyl-4-methylene-4H-spiro[chromene-3,3′-oxetane] | 2.02 g | BrC=1C=C2C(C3(COC3)C(OC2=CC1)(C)C)=C | C14H15BrO2
